US05780483
Synthesis of N-(2-hydroxy-4-nitro phenvl) N'-(2-chloro 6-methyl phenyl) urea
The urea was prepared from 2-hydroxy 4-nitro aniline (500 mg, 3.24 mmol) and 2-chloro 6-methyl phenyl isocyanate by general Method B. It was purified by dilution with methylene chloride and precipitation with hexane. Filtering afforded the desired compound(0.31 g, 29%). EI-MS m/z 322(M+H)+

reactant | 2-hydroxy 4-nitro aniline | 3.24 mmol, 500 mg | OC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H6N2O3
reactant | 2-chloro 6-methyl phenyl isocyanate | ClC1=C(C(=CC=C1)C)N=C=O | C8H6ClNO
product | N-(2-hydroxy-4-nitro phenvl) N'-(2-chloro 6-methyl phenyl) urea | 0.31 g, 29% | OC1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)NC1=C(C=CC=C1C)Cl | C14H12ClN3O4
